US05039672
2. Benzyl 6,7-dichloro-4H-1-benzopyran-4-carboxylate
A mixture of 6,7-dichloro-4H-1-benzopyran-4-carboxylic acid (16.8 gm), tetra (N-butyl)ammonium hydrogensulfate (23 gm), benzyl bromide (9.7 mL), saturated sodium bicarbonate (100 mL) and dichloromethane (100 mL) were stirred vigorously at room temperature for 14 hours, then diluted with dichloromethane, and the organic layer separated, washed with saturated sodium bicarbonate, water, brine, dried (MgSO4), filtered and evaporated. The residue was purified by column chromatography (2:1 dichloromethane/hexanes, SiO2) to afford the title compound (11.8 gm, Rf=0.3 (2:1 dichloromethane/hexanes, SiO2).

reactant | 6,7-dichloro-4H-1-benzopyran-4-carboxylic acid | 16.8 gm | ClC=1C(=CC2=C(C(C=CO2)C(=O)O)C1)Cl | C10H6Cl2O3
reactant | benzyl bromide | 9.7 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | Benzyl 6,7-dichloro-4H-1-benzopyran-4-carboxylate | ClC=1C(=CC2=C(C(C=CO2)C(=O)OCC2=CC=CC=C2)C1)Cl | C17H12Cl2O3
